US08957068B2
1-(4-(4-fluorophenoxy)pyrimidin-2-yl)ethanone (0.150 g 0.646 mmol) was taken up in 2.5 mL 4:1 MeOH:DCM, and cooled to 0° C. NaBH4 (49 mg 1.30 mmol) was added. Fizzing was observed. After 10 min, cold bath was removed, and the reaction was stirred 1 h. Solvent was removed in vacuo. White residue was taken up in 10 mL water, and extracted with (2×10 mL) EtOAc. Washed organics with 10 mL brine. Dried over Na2SO4. Filtered and concentrated to give 143 mg (95%) 1-(4-(4-fluorophenoxy)pyrimidin-2-yl)ethanol as a colorless oil. Anal. RP-HPLC tR=1.38 min. (Column=Inertsil C8 Column, 3.0 μm, 3.0×30 mm. Column Temperature=50° C. Eluents=A: Water (5 mM Ammonium formate, 2% ACN); B: ACN. Flow Rate=2 mL/min. Gradient=0 min 5% B; 5% to 95% B in 1.70 min; 0.3 min 95% B; 2.1 min 1% B.) MS m/z 235.1 (M+H)+.

reactant | 1-(4-(4-fluorophenoxy)pyrimidin-2-yl)ethanone | 0.646 mmol, 0.150 g | FC1=CC=C(OC2=NC(=NC=C2)C(C)=O)C=C1 | C12H9FN2O2
reactant | MeOH | CO | CH4O
reactant | NaBH4 | 1.30 mmol, 49 mg | [BH4-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(4-(4-fluorophenoxy)pyrimidin-2-yl)ethanol | 143 mg, 95% | FC1=CC=C(OC2=NC(=NC=C2)C(C)O)C=C1 | C12H11FN2O2
